US07109340B2
The amine group of the 6-(5-tert-butoxycarbonylaminopyridin-2-yl)-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-c]pyridine-3-carboxamide is deprotected in acid medium (trifluoroacetic acid in dichloromethane) and results in the obtaining of 6-(5-aminopyridin-2-yl)-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-c]pyridine-3-carboxamide.

reactant | 6-(5-tert-butoxycarbonylaminopyridin-2-yl)-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-c]pyridine-3-carboxamide | C(C)(C)(C)OC(=O)NC=1C=CC(=NC1)N1CC=2C(CC1)=C(NN2)C(=O)N | C17H22N6O3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6-(5-aminopyridin-2-yl)-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-c]pyridine-3-carboxamide | NC=1C=CC(=NC1)N1CC=2C(CC1)=C(NN2)C(=O)N | C12H14N6O
